US04021225
To a stirred slurry of 126 g of 2-methylamino-5-mercapto-1,3,4-thiadiazole in 525 ml of dioxane containing a few drops of triethylamine is added 49 g of methyl isocyanate. After stirring two hours at room temperature, the solid is collected by filtration and washed with hexane giving 165 g, melting at 162°-3°. This product is heated on the steam bath 11/2 -2 hours with 250 ml of triethylamine, during which time the initial solid is converted to a heavy amber oil. The supernatent liquid is decanted and the oil is dissolved in water and neutralized with dilute hydrochloric acid to pH 2-3. The precipitated solid is collected and washed with water and air dried, giving 132 g of N,N'-dimethyl-N'-(5-mercapto-1,3,4-thiadiazol-2-yl)urea, m.p. 230° (dec.).

reactant | 2-methylamino-5-mercapto-1,3,4-thiadiazole | 126 g | CNC=1SC(=NN1)S | C3H5N3S2
reactant | methyl isocyanate | 49 g | CN=C=O | C2H3NO
catalyst | dioxane | 525 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N'-dimethyl-N'-(5-mercapto-1,3,4-thiadiazol-2-yl)urea | 132 g | CNC(=O)N(C=1SC(=NN1)S)C | C5H8N4OS2
